Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
seafood / abacavir sulfate / Phenothiazines
 
Attending: ___.
 
Chief Complaint:
Admitted for C1 of EPOCH
 
Major Surgical or Invasive Procedure:
IT MTX ___
POC placement ___

 
History of Present Illness:
___ with PMH of HIV, HTN and HLD, who was recently admitted
for left sided chest pain. Patient work up consistent with large
soft tissue mass in pleura space with further work up consistent
with thoracic lesions, left supraclavicular lymph nodes, right
adrenal gland, and left acetabulum involvement. Soft tissue mass
biopsy confirmed diffuse large B cell lymphoma with BCL 6
rearrangement. Patient now presents to initiate da-EPOCH cycle 
1.

ROS: The patient is overall feeling well. left sided cp
intermittent but not significant per patient, not requiring pain
medications. no n/v/d. no recent fevers chills uri sx. hx of hay
allergies but no recent issues. denies rashes/lesions urinary
c/o. all other ROS negative.
 
Past Medical History:
Past Medical History:
HIV, HTN, HLD

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
GEN:  NAD
VS: ___ 1609 Temp: 98.1 PO BP: 116/81 HR: 74 RR: 18 O2 sat:
96% O2 delivery: Ra 
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary LAD
CV:  Regular, normal S1 and S2 no S3, S4, or murmurs
PULM:  Clear to auscultation bilaterally
ABD:  BS+, soft, non-tender, non-distended, no masses, no
hepatosplenomegaly
LIMBS:  No edema, no inguinal adenopathy
SKIN:  No rashes or skin breakdown
NEURO:  Grossly nonfocal, alert and oriented 

DISCHARGE PHYSICAL EXAM
___ 1105 Temp: 97.8 PO BP: 125/76 R Lying HR: 55 RR: 18 O2
sat: 95% Pain Score: ___  
GEN: NAD, awake and alert, coversant 
HEENT: MMM, no OP lesions, no cervical, supraclavicular, or
axillary LAD
CV: Regular, normal S1 and S2 no S3, S4, or murmurs
PULM: No distress. Clear to auscultation bilaterally
ABD: BS+, soft, non-tender, non-distended, no masses or HSM
LIMBS: Mild BLE edema. No inguinal adenopathy
SKIN:  No rashes or skin breakdown
NEURO: Grossly non-focal, alert and awake x3
PSYCH: Tearful intermittently.  
ACCESS:  POC C/D/I
 
Pertinent Results:
ADMISSION LABS
-------------------
___ 06:49PM CEREBROSPINAL FLUID (CSF)  PROTEIN-39 
GLUCOSE-67 LD(LDH)-18
___ 06:49PM CEREBROSPINAL FLUID (CSF)  TNC-1 RBC-1 POLYS-0 
___ ___ 06:49PM CEREBROSPINAL FLUID (CSF)  IPT-SENT
___ 04:00PM   GLUCOSE-101* UREA N-14 CREAT-1.0 SODIUM-140 
POTASSIUM-4.7 CHLORIDE-101 TOTAL CO2-25 ANION GAP-14
___ 04:00PM   estGFR-Using this
___ 04:00PM   ALT(SGPT)-18 AST(SGOT)-23 LD(LDH)-223 ALK 
PHOS-176* TOT BILI-0.5
___ 04:00PM   ALBUMIN-4.8 CALCIUM-9.8 PHOSPHATE-4.4 
MAGNESIUM-2.3 URIC ACID-6.3
___ 04:00PM   HBsAg-NEG HBs Ab-NEG HBc Ab-NEG
___ 04:00PM   IgG-1112 IgA-52* IgM-42
___ 04:00PM   HCV Ab-NEG
___ 04:00PM   HIV1 VL-NOT DETECT
___ 04:00PM   WBC-10.2* RBC-4.16* HGB-13.6* HCT-40.6 MCV-98 
MCH-32.7* MCHC-33.5 RDW-12.7 RDWSD-45.1
___ 04:00PM   NEUTS-73.2* LYMPHS-15.9* MONOS-8.1 EOS-1.9 
BASOS-0.4 IM ___ AbsNeut-7.49* AbsLymp-1.62 AbsMono-0.83* 
AbsEos-0.19 AbsBaso-0.04
___ 04:00PM   PLT COUNT-294
___ 04:00PM   ___ PTT-33.4 ___
___ 04:00PM   ___
___ 04:00PM    WBC-10.2*  LYMPH-16* ABS LYMPH-1632 CD3-75 
ABS CD3-1219 CD4-16 ABS CD4-262* CD8-57 ABS CD8-928* 
CD4/CD8-0.28*

MICROBIOLOGY STUDIES

 GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

DISCHARGE LABS
------------------
___ 12:00AM BLOOD WBC-8.3 RBC-3.18* Hgb-10.5* Hct-30.9* 
MCV-97 MCH-33.0* MCHC-34.0 RDW-12.4 RDWSD-44.6 Plt ___
___ 12:00AM BLOOD Neuts-93.5* Lymphs-4.4* Monos-0.8* 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-7.73* AbsLymp-0.36* 
AbsMono-0.07* AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Plt ___
___ 05:56AM BLOOD ___
___ 04:00PM BLOOD ___
___ 04:00PM BLOOD  WBC-10.2* Lymph-16* Abs ___ CD3%-75 
Abs CD3-1219 CD4%-16 Abs CD4-262* CD8%-57 Abs CD8-928* 
CD4/CD8-0.28*
___ 12:00AM BLOOD Glucose-116* UreaN-18 Creat-0.8 Na-139 
K-3.7 Cl-101 HCO3-26 AnGap-12
___ 12:00AM BLOOD ALT-19 AST-23 LD(LDH)-153 AlkPhos-110 
TotBili-0.3
___ 12:00AM BLOOD Albumin-3.5 Calcium-8.6 Phos-3.7 Mg-2.1 
UricAcd-3.8
___ 04:00PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 04:00PM BLOOD IgG-1112 IgA-52* IgM-42
___ 04:00PM BLOOD HCV Ab-NEG
___ 04:00PM BLOOD HIV1 VL-NOT DETECT
 
Brief Hospital Course:
ASSESSMENT AND PLAN: A ___ year old M with HIV who initially 
presented w/ L sided chest pain, found to have a large pleural 
mass w/ workup consistent w/ DLBCL, presenting to initiate C1 of 
da-EPOCH.

ACUTE ISSUES
==================

#DLBCL: He underwent soft tissue mass biopsy ___ which was 
consistent with DLBCL BCL 6 rearrangement, bony involvement in 
setting of acetabulum and thoracic lesions and was admitted for 
his first cycle of chemotherapy. He tolerated his first cycle 
well and today is D+5 of his regimen. He did not receive 
Rituximab during his hospital course, this may likely occur 
during one of this outpatient visits. Per immunohistochemistry, 
his neoplastic cells are immunoreactive for CD45, CD20, and 
PAX5. His last CD4 count was 262 on ___. He will start his 
daily neupogen injections starting ___ in the morning. He 
was started on acyclovir for infectious prophylaxis (400mg BID) 
and was continued on bactrim for PJP PPX. He received IT MTX as 
part of CNS prophylaxis on ___ and appears to be initially 
free of evidence of CNS involvement. His flow cytometry was 
non-diagnostic [per report, cell marker analysis was attempted 
but was non-diagnostic in due to insufficient number of cells 
and as such as clonality could not be assessed]. Dr. ___ will 
assume the role of his primary oncologist. However, in the 
meantime, he will be seen by Dr. ___ on ___ and ___ 
for lab check and provider ___. Dr. ___ ___ 
(___) will be involved in his care [patient has a 
scheduled appointment on ___ at 1:30pm with her team]. Of 
importance, he did not exhibit any evidence of TLS. He was 
continued on allopurinol ___ daily at discharge. His uric acid 
level was normal throughout his hospitalization. 

#Depression and Anxiety: Previously on long-acting wellbutrin 
300mg but given concern for drug-drug interaction with 
chemotherapy, this was discontinued and we discussed with 
psychiatry who agrees with holding medication. Patient reported 
"feelings of sadness" and intermittent tearfulness, so 
re-consulted psych on ___ regarding alternative options. 
Upon discussion with psych, the thought is that his symptoms are 
less likely due to stopping wellbutrin and more likely due to 
coping with lymphoma diagnosis and hospitalization course so 
they recommended not re-starting wellbutrin. Additionally, would 
not recommend starting any other antidepressant at this time as 
patient also would prefer not to do so. Recommended that patient 
be connected to therapy and counseling during this difficult 
time with psych-onc at ___ outpatient. SW consulted and 
following as needed.

#Leukocytosis: Resolved prior to discharge. Without infectious 
symptoms, likely steroid-induced effect. Continue to monitor and 
trend ___ outpatient.

#FVO: Per documentation, weight was up significantly (~16lbs 
from admission weight), however, likely spurious to some degree 
as does not appear to correlate clinically though has mild BLE 
edema. Certainly, his high dose prednisone and continuous IVF he 
received in the context of TLS monitoring may have contributed 
to this. He received 20mg of IV Lasix on ___. Expect 
improvement outpatient. 

CHRONIC CONDITIONS
========================

#HIV: Outpatient team changed home regimen to be chemotherapy 
compatible, currently on descovy and doltegavir per ID 
recommendations. CD4 count improved to 262. Repeat hep markers 
and HiV vL neg

#HTN: Continue home lisinopril at discharge. No acute 
exacerbations in-house.

#HLD: Holding statin while receiving EPOCH. Restarted at 
discharge.  
 
Prophylaxes:
==============
#Access: POC placed ___
#Contact: ___
#Disposition: Discharged ___. RTC ___ and ___ as above. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Pravastatin 80 mg PO QPM 
3. BuPROPion (Sustained Release) 150 mg PO BID 
4. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
5. Dolutegravir 50 mg PO DAILY 
6. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H 
RX *acyclovir 400 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*3 
2.  Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
3.  Filgrastim-sndz 480 mcg SC Q24H 
start on ___ in the morning  
RX *filgrastim-sndz [Zarxio] 480 mcg/0.8 mL 480 mcg inj daily 
Disp #*10 Syringe Refills:*3 
4.  LORazepam 0.5-1 mg PO Q6H:PRN nausea anxiety insomnia 
RX *lorazepam 0.5 mg ___ tabs by mouth every 4 hours as needed 
Disp #*30 Tablet Refills:*0 
5.  Ondansetron ODT 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth TID prn Disp #*30 
Tablet Refills:*3 
6.  Dolutegravir 50 mg PO DAILY  
7.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
8.  Lisinopril 10 mg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10.  Pravastatin 80 mg PO QPM  
11.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
-------------------
#DIFFUSE LARGE B-CELL LYMPHOMA
#DEPRESSION/ANXIETY

SECONDARY DIAGNOSIS
#HIV
#HTN
#HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___:

You were admitted to receive your first cycle of chemotherapy 
for your lymphoma. You tolerated this very well and will be 
discharged home today. 

You gained fluid weight due to the chemotherapy, which improved 
with 
lasix. 

You will inject neupogen daily starting ___ 
(afternoon). Continue this injection until you are told to stop. 


You will continue to take medications to prevent infection: 
acyclovir and bactrim

Your nausea medications are as follows:
1 zofran
2 ativan

Please drink enough fluids so that your urine is close to clear 
(this is usually between 48-64 oz of fluid per day).

You will follow up in the outpatient clinic as stated below. 
Please do not hesitate to call in the meantime with any 
questions or concerns.
 
Followup Instructions:
___